US04994485
Preparation of 2-methylthio-3,5-dicyano-4-methoxythiophene.
6 g of 2-methylthio-3,5-dicyano-4-hydroxythiophene 10 ml of methyl iodide, 10 g of potassium carbonate, and 3 ml of triethylamine are refluxed in 300 ml of acetonitrile while stirring. After 2 hours the reaction mixture is filtered warm and evaporated to dryness. The residue is taken up in 200 ml of methylene chloride and washed successively with a solution of potassium carbonate in water and with water. The methylene chloride solution is then dried and evaporated to dryness. After recrystallisation of the residue from isopropanol, the desired product is obtained in a yield of 4.0 g; melting-point 132° C.

reactant | 2-methylthio-3,5-dicyano-4-hydroxythiophene | 10 ml, 6 g | CSC=1SC(=C(C1C#N)O)C#N | C7H4N2OS2
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-methylthio-3,5-dicyano-4-methoxythiophene | CSC=1SC(=C(C1C#N)OC)C#N | C8H6N2OS2
